US08957073B2
To a solution of 2-[3-(3-bromo-pyridin-2-yl)-azetidin-1-yl]-quinoline (339 mg, 1 mmol), 3-methyl-pyrrolidine (93.5 mg, 1.1 mmol), BINAP (31.1 mg, 0.05 mmol), t-BuONa (196 mg, 2 mmol) in dioxane (25 mL) was added Pd2(dba)3 (45.75 mg, 0.05 mmol) then the reaction mixture was stirred at 90° C. under nitrogen atmosphere overnight. The reaction mixture was filtered through CELITE® and washed with EtOAc (50 mL). The filtrate was concentrated and the crude product was purified by ISCO silica gel column (10% to 80% EtOAc in petroleum ether) to give 2-{3-[3-(3-methyl-pyrrolidin-1-yl)-pyridin-2-yl]-azetidin-1-yl}-quinoline (64 mg, 0.19 mmol, yield 19%).

reactant | 2-[3-(3-bromo-pyridin-2-yl)-azetidin-1-yl]-quinoline | 1 mmol, 339 mg | BrC=1C(=NC=CC1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C17H14BrN3
reactant | 3-methyl-pyrrolidine | 1.1 mmol, 93.5 mg | CC1CNCC1 | C5H11N
reactant | BINAP | 0.05 mmol, 31.1 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | t-BuONa | 2 mmol, 196 mg | C(C)(C)(C)O[Na]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.05 mmol, 45.75 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-{3-[3-(3-methyl-pyrrolidin-1-yl)-pyridin-2-yl]-azetidin-1-yl}-quinoline | 0.19 mmol, 64 mg, yield 19% | CC1CN(CC1)C=1C(=NC=CC1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C22H24N4
